US07632857B2
4-(5-Acetyl-pyridin-2-yl)-benzoic acid sodium salt
Procedure V′: To a stirring solution of 4-(5-acetyl-pyridin-2-yl)-benzoic acid methyl ester (1.0 mmol) in 1:1 tetrahydrofuran/ethanol (0.20M), add 2N sodium hydroxide and heat to reflux for three hours. After this time, concentrate the reaction in vacuo. Rinse the solid with dichloromethane and decant. The title compound, remaining as a solid, requires no further purification. MS (m/e): 242.1 (M+1)

reactant | 4-(5-acetyl-pyridin-2-yl)-benzoic acid methyl ester | 1.0 mmol | COC(C1=CC=C(C=C1)C1=NC=C(C=C1)C(C)=O)=O | C15H13NO3
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | tetrahydrofuran ethanol | 0.20M | O1CCCC1.C(C)O
product | 4-(5-Acetyl-pyridin-2-yl)-benzoic acid sodium salt | [Na+].C(C)(=O)C=1C=CC(=NC1)C1=CC=C(C(=O)[O-])C=C1 | InChI=1S/C14H11NO3.Na/c1-9(16)12-6-7-13(15-8-12)10-2-4-11(5-3-10)14(17)18;/h2-8H,1H3,(H,17,18);/q;+1/p-1
